US07700634B2
1-(cyclohexyl)methyl-3-{4-[(dimethylamino)methyl]-5-ethyl-[1,3]-thiazol-2-yl}-7-methoxy-1H-indole, hydrochloride salt
Lithium borohydride (200 mg, 9.09 mmol) was added portionwise to a mixture of 2-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-5-ethyl-thiazole-4-carboxylic acid ethyl ester (490 mg, 1.15 mmol) and tetrahydrofuran (5 ml) under ice-water cooling and the resulting mixture was stirred at 0° C. for 2 h. The reaction mixture was quenched with aqueous hydrochloric acid (2 M; 2 ml), and the aqueous layer extracted with dichloromethane (2×100 ml). The organic layers were combined, dried over magnesium sulfate, and concentrated in vacuo to yield the crude product. Silica gel column chromatography eluting with 66% ethyl acetate in heptane gave crude [2-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-5-ethyl-thiazole-4-yl]-methanol (210 mg). This material was used in the next step without further purification. Methanesulfonylchloride (90 μl, 1.16 mmol) was added to a mixture of [2-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-5-ethyl-thiazole-4-yl]-methanol (210 mg, 0.547 mmol), diisopropylethylamine (150 μl, 0.91 mmol) and dichloromethane (5 ml) under ice-water cooling and the resulting mixture was allowed to warm to room temperature slowly. Stirring was continued for 22 hours. The reaction mixture was quenched with 5% aqueous sodium carbonate (2 ml), and the aqueous layer extracted with dichloromethane (2×10 ml). The organic layers were combined, dried over magnesium sulfate, and concentrated in vacuo to yield the crude product. Flash column chromatography eluting with 10% acetone in n-heptane afforded 3-(4-chloromethyl-5-ethyl-thiazol-2-yl)-1-cyclohexylmethyl-7-methoxy-1H-indole (109 mg). Dimethylamine (2.2 M solution in tetrahydrofuran; 0.50 ml) was added to a mixture of 3-(4-chloromethyl-5-ethyl-thiazol-2-yl)-1-cyclohexylmethyl-7-methoxy-1H-indole (38 mg, 0.095 mmol), potassium carbonate (16 mg, 0.113 mmol) and sodium iodide (14 mg, 0.095 mmol) in acetonitrile (2 ml). The mixture was subjected to microwave irradiation for 5 min at 160° C., then partitioned between dichloromethane (20 ml) and 5% aqueous sodium carbonate (5 ml). The aqueous layer was extracted with dichloromethane (10 ml) and the combined organic layers were dried over magnesium sulfate and concentrated in vacuo. The resulting oil was dissolved in diethyl ether, then hydrogen chloride (1M solution in diethyl ether; 3 ml) was added to the solution. The resulting mixture was concentrated in vacuo to afford the title compound as a 1:1 hydrochloride salt (40 mg, 0.089 mmol). 1H NMR (400 MHz, CD3OD) δ 1.04-1.15 (2H, m), 1.16-1.30 (3H, m), 1.43 (3H, t, J 7.0), 1.55-1.78 (5H, m), 1.82-1.92 (1H, m), 3.05 (8H, m), 3.99 (3H, s), 4.33 (2H, d, J 7), 4.62 (2H, s), 6.91 (1H, d, J 8.0), 7.29 (1H, t, J 8.0), 7.62 (1H, d, J 8), 8.30 (1H, s). EIMS: m/z 412.3 [M+H]+, 367.0.

reactant | Dimethylamine | 2.2 M, 0.50 ml | CNC | C2H7N
reactant | 3-(4-chloromethyl-5-ethyl-thiazol-2-yl)-1-cyclohexylmethyl-7-methoxy-1H-indole | 0.095 mmol, 38 mg | ClCC=1N=C(SC1CC)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C22H27ClN2OS
reactant | potassium carbonate | 0.113 mmol, 16 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.095 mmol, 14 mg | [I-].[Na+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-(cyclohexyl)methyl-3-{4-[(dimethylamino)methyl]-5-ethyl-[1,3]-thiazol-2-yl}-7-methoxy-1H-indole, hydrochloride salt | Cl.C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C=1SC(=C(N1)CN(C)C)CC | InChI=1S/C24H33N3OS.ClH/c1-5-22-20(16-26(2)3)25-24(29-22)19-15-27(14-17-10-7-6-8-11-17)23-18(19)12-9-13-21(23)28-4;/h9,12-13,15,17H,5-8,10-11,14,16H2,1-4H3;1H
